US06331556B2
1-(7-Methoxybenzofuran-2-yl)-butane-1,4-diol
Tetrabutylammonium fluoride (12 ml, 1M in tetrahydrofuran) was added to a stirred solution of 4-(tert-butyldimethylsilanyloxy)-1-(7-methoxybenzofuran-2-yl)-butan-1-ol (4 g) in tetrahdrofuran (50 ml) at 0° C. After stirring cooled for 2 hours the reaction was warmed to room temperature and allowed to stir for a further 1 hour. The solvent was removed in vacuo and the residue partitioned between ethyl acetate (100 ml) and water (50 ml). The organic extract was dried over magnesium sulphate, filtered and preadsorbed onto silica. Purification by column chromatography on silica eluting with ethyl acetate yielded the title compound as a tan oil (2.34 g).

reactant | Tetrabutylammonium fluoride | 1M, 12 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-(tert-butyldimethylsilanyloxy)-1-(7-methoxybenzofuran-2-yl)-butan-1-ol | 4 g | [Si](C)(C)(C(C)(C)C)OCCCC(O)C=1OC2=C(C1)C=CC=C2OC | C19H30O4Si
product | 1-(7-Methoxybenzofuran-2-yl)-butane-1,4-diol | 2.34 g | COC1=CC=CC=2C=C(OC21)C(CCCO)O | C13H16O4
